US07449486B2
Step F: Preparation of 2-(3-aminopropyl)-5-(2,5-difluorophenyl)-N-hydroxy-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide:
To 2-(3-aminopropyl)-N-tert-butoxy-5-(2,5-difluorophenyl)-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide (0.023 g, 0.05 mmol) was added TFA (2 mL). After stirring for 18 hours, the mixture was concentrated and chromatographed (10:1:0.2 dichloromethane/methanol/30% NH4OH) to provide the product (0.01 g, 49%). MS ESI (+) m/z 407 (M+1) detected; 1H NMR (400 MHz, CDCl3)δ 7.45 (d, 2H), 7.36 (m, 3H), 7.29 (m, 1H), 7.11 (m, 2H), 3.28 (s, 3H), 3.12 (m, 1H), 2.90 (m, 1H), 2.78 (m, 1H), 2.24 (m, 1H), 1.98 (m, 1H), 1.62 (m, 1H).

reactant | 2-(3-aminopropyl)-N-tert-butoxy-5-(2,5-difluorophenyl)-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide | 0.05 mmol, 0.023 g | NCCCC1(SC(=NN1C(=O)N(C)OC(C)(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H28F2N4O2S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(3-aminopropyl)-5-(2,5-difluorophenyl)-N-hydroxy-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide | 0.01 g, 49% | NCCCC1(SC(=NN1C(=O)N(C)O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C19H20F2N4O2S
